* First real converter candidate physical object.
* Assembled from local Sky130 Magic ext2spice starter cells.
* This is a B1 physical-object artifact, not accepted converter evidence.
* Required parts named in this file: row_dac, sar_readout, shared_mux, references, sample_path.

* begin source: labs/analog/analog-in-memory-foundation-model-hardware/layout-workbench/extracted/row_dac_10b_layout_smoke.spice
* NGSPICE file created from row_dac_10b.ext - technology: sky130A

.subckt row_dac_10b vss row_drive vdd
C0 row_drive vdd 1.08417f
C1 vdd vss 0.78467f
C2 row_drive vss 1.07709f
C3 vss VSUBS 1.40333f
C4 row_drive VSUBS 0.95642f
C5 vdd VSUBS 1.38963f
.ends
* end source: labs/analog/analog-in-memory-foundation-model-hardware/layout-workbench/extracted/row_dac_10b_layout_smoke.spice

* begin source: labs/analog/analog-in-memory-foundation-model-hardware/layout-workbench/extracted/sar_readout_12b_layout_smoke.spice
* NGSPICE file created from sar_readout_12b.ext - technology: sky130A

.subckt sar_readout_12b vss sample_in vdd
C0 sample_in vss 1.05402f
C1 sample_in vdd 1.3202f
C2 vdd vss 0.53484f
C3 vss VSUBS 1.38755f
C4 sample_in VSUBS 1.67154f
C5 vdd VSUBS 1.7846f
.ends
* end source: labs/analog/analog-in-memory-foundation-model-hardware/layout-workbench/extracted/sar_readout_12b_layout_smoke.spice

* begin source: labs/analog/analog-in-memory-foundation-model-hardware/layout-workbench/extracted/shared_converter_mux_layout_smoke.spice
* NGSPICE file created from shared_converter_mux.ext - technology: sky130A

.subckt shared_converter_mux vss mux_bus vdd
C0 mux_bus vdd 1.55306f
C1 mux_bus vss 1.56188f
C2 vss VSUBS 1.39454f
C3 mux_bus VSUBS 3.03532f
C4 vdd VSUBS 1.41225f
.ends
* end source: labs/analog/analog-in-memory-foundation-model-hardware/layout-workbench/extracted/shared_converter_mux_layout_smoke.spice

* begin source: labs/analog/analog-in-memory-foundation-model-hardware/layout-workbench/extracted/aimc_converter_macro_layout_smoke.spice
* NGSPICE file created from aimc_converter_macro.ext - technology: sky130A

.subckt aimc_converter_macro vss vdd row_drive column_sense digital_code_out sample_clock
C0 vss vdd 0.4479f
C1 vss row_drive 0.48996f
C2 vss sample_clock 0.2174f
C3 row_drive vdd 0.25431f
C4 vss column_sense 0.25253f
C5 digital_code_out vss 0.3288f
C6 sample_clock vdd 0.37987f
C7 column_sense vdd 0.29373f
C8 digital_code_out vdd 0.70889f
C9 row_drive column_sense 0.08871f
C10 digital_code_out row_drive 0.00852f
C11 sample_clock column_sense 0.00493f
C12 digital_code_out sample_clock 0.02344f
C13 digital_code_out column_sense 0.29672f
C14 vss VSUBS 2.74134f
C15 digital_code_out VSUBS 1.20105f
C16 row_drive VSUBS 1.09469f
C17 sample_clock VSUBS 0.74026f
C18 column_sense VSUBS 1.15836f
C19 vdd VSUBS 2.56389f
.ends
* end source: labs/analog/analog-in-memory-foundation-model-hardware/layout-workbench/extracted/aimc_converter_macro_layout_smoke.spice

.subckt aimc_readout_candidate_001 vss vdd row_drive column_sense digital_code_out sample_clock vrefp vrefn
* row_dac: extracted starter row DAC cell drives the row voltage.
Xdac vss row_drive vdd row_dac_10b
* shared_mux: extracted starter shared mux cell loads the column bus.
Xmux vss column_sense vdd shared_converter_mux
* sar_readout: extracted starter sampled readout cell observes the muxed sense node.
Xsar vss column_sense vdd sar_readout_12b
* sample_path: starter macro parasitic object ties row drive, column sense, output, and sample clock.
Xmacro vss vdd row_drive column_sense digital_code_out sample_clock aimc_converter_macro
* references: vrefp and vrefn are explicit candidate reference pins for later ADC/DAC decks.
Crefp vrefp vss 1f
Crefn vrefn vss 1f
.ends aimc_readout_candidate_001
